US09226501B2
Preparation of (E)-4-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-2-(methylsulfonyl)-N-(2-oxo-2-(2,2,2-trifluoroethylamino)ethyl)benzamide
Oxone (320 mg, 0.50 mmol) was added to a stirred solution of (E)-4-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-2-(methylthio)-N-(2-oxo-2-(2,2,2-trifluoroethylamino)ethyl)benzamide (150 mg, 0.25 mmol) in acetone-water (10 mL, 1:1) at ambient temperature and the reaction mixture was stirred for 18 h. The reaction mixture was then extracted with CH2Cl2. The organic layer was washed with brine and water, dried (Na2SO4), filtered, concentrated and the residue was triturated with pentane-Et2O (1:1) to afford the title compound as an off white solid (85 mg, 56%): 1H NMR (300 MHz, DMSO-d6) δ 9.01 (t, J=6.0, 1H), 8.37 (t, J=6.4 Hz, 1H), 8.08 (s, 1H), 8.01-7.96 (m, 1H), 7.88-7.86 (m, 2H), 7.64 (d, J=7.6 Hz, 1H), 7.05 (dd, J=16.4, 8.8 Hz, 1H), 6.91 (d, J=15.6 Hz, 1H), 4.87-4.80 (m, 1H), 3.98-3.91 (m, 4H), 3.38 (s, 3H); ESIMS m/z 608.85 ([M+H]+); IR (thin film) 337, 416, 721, 164, 768 cm−1.

reactant | Oxone | 0.50 mmol, 320 mg | OOS(=O)[O-].[K+]
reactant | (E)-4-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-2-(methylthio)-N-(2-oxo-2-(2,2,2-trifluoroethylamino)ethyl)benzamide | 0.25 mmol, 150 mg | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C1=CC(=C(C(=O)NCC(NCC(F)(F)F)=O)C=C1)SC)C(F)(F)F | C22H17Cl2F7N2O2S
reactant | acetone water | 10 mL | CC(=O)C.O
product | (E)-4-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-2-(methylsulfonyl)-N-(2-oxo-2-(2,2,2-trifluoroethylamino)ethyl)benzamide | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C1=CC(=C(C(=O)NCC(NCC(F)(F)F)=O)C=C1)S(=O)(=O)C)C(F)(F)F | C22H17Cl2F7N2O4S
